US07259186B2
Method for Making Fenofibric Acid Form I
Fenofibrate (350. g, 0.970 mol) was suspended in 2 L of isopropanol. A solution of NaOH (77.6 g NaOH, 1.94 mol, 2 eq) in 1.8 L of water was added and the mixture heated to reflux for 2.7 hours. The solution was cooled to approximately 4° C. A solution of hydrochloric acid (697.2 g of a 10.03% solution, 69.90 g of HCl, 1.917 mol, 2 eq) was added maintaining the temperature at less than 5° C., and the product crystallized from solution. The crystallization can be optionally seeded with Form I fenofibric acid after approximately 50% of the hydrochloric acid is added. The slurry was warmed to 20° C. and mixed for 0.8 hours. The product was filtered, rinsed with 600 mL of 2:1 water:isopropanol, and then rinsed with 300 mL of water. The product was dried in a vacuum oven at 40° C. with a nitrogen purge for 14 hours, and then dried at 60° C. for 24 hours. The dry weight was 300.6 g, or 97.2% yield. 1H NMR (400 MHz, CD3OD) δ 7.72 (m, 2H), 7.71 (m, 2H), 7.52 (m, 2H), 6.95 (m, 2H), 1.66 (s, 6H); Anal. Calcd. for C17H15ClO4: C, 64.06; H, 4.74; N, Cl, 11.12. Found: C, 63.94; H, 4.64; Cl, 11.13.

reactant | Fenofibrate | 0.970 mol | CC(C)OC(=O)C(C)(C)OC=1C=CC(=CC1)C(=O)C=2C=CC(=CC2)Cl | C20H21ClO4
reactant | NaOH | 1.94 mol, 77.6 g, 2 eq | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | HCl | 69.90 g | Cl | ClH
solvent | isopropanol | 2 L | C(C)(C)O | C3H8O
solvent | water | 1.8 L | O | H2O
product | Fenofibric Acid | 97.2% yield | CC(C)(C(=O)O)OC=1C=CC(=CC1)C(=O)C=2C=CC(=CC2)Cl | C17H15ClO4
